* PC817 input IRED forward voltage at published condition
.temp 25
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://global.sharp/products/device/lineup/data/pdf/datasheet/PC8171xNSZ1B_e.pdf
* Revision: Sheet No. OP18004EN, DATE Jan.15.2018
* Fit: closed-form one-point calibration at 25 degC; no vendor SPICE model used
.model OC_SHARP_PC817 D(IS=1.0503785849e-15 N=1.6 RS=1e-4 CJO=3.0e-11)
Itest 0 anode DC 5m
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_SHARP_PC817
.op
.end
